US06465467B1
Step 3: 2-(1,3-Benzodioxol-4-yloxy)ethanol.
A mixture of 1,3-benzodioxol-4-ol* (0.74 g, 5.36 mmol), ethylene carbonate (0.47 g, 5.3 mmol) and K2CO3 (0.67 g, 4.8 mmol) in DMF (30 mL) was heated at 150° C. After the evolution of carbon dioxide had ceased (1 h), the reaction mixture was filtered and concentrated. The crude product was purified by chromatography on silica gel using petroleum ether/EtOAc (70:30) as eluent to give 0.64 g (65%) of the title product as an oil which spontaneously crystallized to a white solid: mp 56-57° C. Anal. (C9H10O4) C, H.

reactant | 1,3-benzodioxol-4-ol | O1COC2=C1C=CC=C2O | C7H6O3
reactant | ethylene carbonate | 5.3 mmol, 0.47 g | C1(OCCO1)=O | C3H4O3
reactant | K2CO3 | 4.8 mmol, 0.67 g | C(=O)([O-])[O-].[K+].[K+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-(1,3-Benzodioxol-4-yloxy)ethanol | 0.64 g, 65% | O1COC2=C1C=CC=C2OCCO | C9H10O4
